US08420642B2
5-Chloro-3-cyclopentylmethoxy-2-nitro-pyridine (1.3 mmol) is dissolved in DMF (10 ml), phenol (3 eq.) and K2CO3 (4 eq.) is added. The reaction is heated to 100° C. in the microwave for 45 min. The reaction solution is pored into water and extracted with methyl-tert.-butyl ether. The combined organic layers are washed with brine, dried over MgSO4 and the solvent is removed in vacuo. 3-Cyclopentylmethoxy-2-nitro-5-phenoxy-pyridine is obtained after column chromatography (heptane/ethyl acetate) as yellow oil in a yield of 94%. HPLC (method C): 2.31 min; LC-MS (method A): 2.48 min, 315.15 (MH+).

reactant | 5-Chloro-3-cyclopentylmethoxy-2-nitro-pyridine | 1.3 mmol | ClC=1C=C(C(=NC1)[N+](=O)[O-])OCC1CCCC1 | C11H13ClN2O3
reactant | phenol | 3 eq. | C1(=CC=CC=C1)O | C6H6O
reactant | K2CO3 | 4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-Cyclopentylmethoxy-2-nitro-5-phenoxy-pyridine | yield of 94% | C1(CCCC1)COC=1C(=NC=C(C1)OC1=CC=CC=C1)[N+](=O)[O-] | C17H18N2O4
